US06544985B2
A sample of rac-3-(2-bromo-pentanoyl)-benzoic acid methyl ester (0.60 g) and and 2-(tert.-butylcarbonyloxy)thioacetamide (0.36 g) in EtOH (4 mL) was heated at reflux for 5 h. The mixture was partitioned between AcOEt and 5% NaHCO3 solution, the organic layer was washed with brine, dried and evaporated. A solution of the residual oil and of NaOMe (0.13 g) in MeOH (10 mL) was stirred at 60° C. for 30 min. The solution was diluted with AcOEt, washed with 1N HCl and brine, dried and evaporated to give 3-(2-hydroxymethyl-5-methyl-thiazol-4-yl)-benzoic acid methyl ester (0.44 g) as an oil.

reactant | rac-3-(2-bromo-pentanoyl)-benzoic acid methyl ester | 0.60 g | COC(C1=CC(=CC=C1)C(C(CCC)Br)=O)=O | C13H15BrO3
reactant | 2-(tert.-butylcarbonyloxy)thioacetamide | 0.36 g | C(C)(C)(C)C(=O)OCC(=S)N | C7H13NO2S
solvent | EtOH | 4 mL | CCO | C2H6O
product | 3-(2-hydroxymethyl-5-methyl-thiazol-4-yl)-benzoic acid methyl ester | 0.44 g | COC(C1=CC(=CC=C1)C=1N=C(SC1C)CO)=O | C13H13NO3S
